US07612114B2
1-Azepan-1-yl-2-chloroethanone
To a solution of hexamethyleneimine (2.9 ml) in tetrahydrofuran (25 ml) was added triethylamine (3.5 ml). Chloroacetyl chloride (2.0 ml) was added thereto on an ice bath followed by stirring for 1.5 hours while warming to room temperature. An aqueous solution of 10% citric acid was added thereto, the solution was extracted with ethyl acetate, then sequentially washed with a saturated aqueous solution of sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo, and the residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (3.5 g).

reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | Chloroacetyl chloride | 2.0 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-Azepan-1-yl-2-chloroethanone | 3.5 g | N1(CCCCCC1)C(CCl)=O | C8H14ClNO
